US07662830B2
3. 4-(3-Chloro-4-fluoro-phenyl)-6-piperazin-1-yl-2-(4-propyl-piperazin-1-yl)-pyrimidine
Dissolve 4-[6-(3-chloro-4-fluoro-phenyl)-2-(4-propyl-piperazin-1-yl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (2.0 g) in dioxane and then add a 4M solution of HCl in dioxane (15 mL). After the formation of precipitate stir the suspension vigorously for 2 h. Collect the solid and wash with ether and then freebase the material by partitioning between 10% NaOH solution and DCM. Separate the organic layer, dry (Na2SO4) and concentrate to give the title compound as an off-white solid.

reactant | 4-[6-(3-chloro-4-fluoro-phenyl)-2-(4-propyl-piperazin-1-yl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)CCC | C26H36ClFN6O2
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-(3-Chloro-4-fluoro-phenyl)-6-piperazin-1-yl-2-(4-propyl-piperazin-1-yl)-pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCNCC1)N1CCN(CC1)CCC | C21H28ClFN6
